US05264430
STEP A: Preparation of 7α-chloro-3-methyl-3-cephem-4-carboxylic acid
A mixture of 7-ADCA (25 g, 0.117 mol), ethanol (700 ml), water (163 ml) and concentrated hydrochloric acid (163 ml) was cooled to 5° C. Sodium nitrite (11.5 g, 0.167 mol) was added in small portions over 25 minutes and the mixture was stirred for 3.5 hours at 0°-5° C.; 300 ml of brine was added and the reaction mixture was extracted with methylene chloride. The organic extract was washed with water, brine, dried over sodium sulfate and concentrated (16.1 g, 58.9%). This crude acid was directly used for the next step without further purification.

reactant | 7-ADCA | 0.117 mol, 25 g | CC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C8H10N2O3S
reactant | ethanol | 700 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 163 ml | Cl | ClH
reactant | Sodium nitrite | 0.167 mol, 11.5 g | N(=O)[O-].[Na+]
solvent | brine | 300 ml | [Cl-].[Na+].O
solvent | water | 163 ml | O | H2O
product | 7α-chloro-3-methyl-3-cephem-4-carboxylic acid | Cl[C@@H]1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H8ClNO3S
